*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-56N_freq port1 port2 PARAMS: Cpar=0.041pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=30
+ R2=1
+ C= {Cpar}
+ K1=0.000136
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=36111.0949
.ends 0402HPH-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-68N_freq port1 port2 PARAMS: Cpar=0.035pF Ind=68nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=1.2
+ C= {Cpar}
+ K1=0.000172
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=55802.093
.ends 0402HPH-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-82N_freq port1 port2 PARAMS: Cpar=0.035pF Ind=82nH
X1 port1 port2 Model2A PARAMS:
+ R1=40
+ R2=1.25
+ C= {Cpar}
+ K1=0.000228
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44705.7672
.ends 0402HPH-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-R10
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-R10_freq port1 port2 PARAMS: Cpar=0.039pF Ind=100nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=1.2
+ C= {Cpar}
+ K1=0.000271
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=76139.2919
.ends 0402HPH-R10_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-R12
* Inductance = 120nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-R12_freq port1 port2 PARAMS: Cpar=0.038pF Ind=120nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=1.2
+ C= {Cpar}
+ K1=0.000326
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=88154.2332
.ends 0402HPH-R12_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-R15
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-R15_freq port1 port2 PARAMS: Cpar=0.041pF Ind=150nH
X1 port1 port2 Model2A PARAMS:
+ R1=40
+ R2=2
+ C= {Cpar}
+ K1=0.000372
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=64476.5542
.ends 0402HPH-R15_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-R18
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-R18_freq port1 port2 PARAMS: Cpar=0.041pF Ind=180nH
X1 port1 port2 Model2A PARAMS:
+ R1=40
+ R2=2.1
+ C= {Cpar}
+ K1=0.00042
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=75611.1606
.ends 0402HPH-R18_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HPH-R22
* Inductance = 220nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HPH-R22_freq port1 port2 PARAMS: Cpar=0.037pF Ind=220nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=3.1
+ C= {Cpar}
+ K1=0.00051
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=143565.181
.ends 0402HPH-R22_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
